US05015661
rac-2-[(2-Aminophenyl)ethynyl]-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol.
This compound was obtained by reacting rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol with 2-iodoaniline under the conditions described in Example 26. The product was isolated by chromatography over the 40 fold amount of silica gel using methylene chloride. Crystallization from ether/hexane and recrystallization from cyclohexane gave pale yellow crystals with m.p. 110°-112°.

reactant | rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | C(#C)C1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C15H18O2
reactant | 2-iodoaniline | IC1=C(N)C=CC=C1 | C6H6IN
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | rac-2-[(2-Aminophenyl)ethynyl]-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | NC1=C(C=CC=C1)C#CC1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C21H23NO2
